US03994954
Similarly, N-t-butoxycarbonyl-2-(2-hydroxyphenyl)glycine n-butyl ester was hydrolyzed to give N-t-butoxycarbonyl-2-(2-hydroxyphenyl)glycine, m.p. 125° (methylene chloride-water).

reactant | N-t-butoxycarbonyl-2-(2-hydroxyphenyl)glycine n-butyl ester | C(CCC)OC(C(NC(=O)OC(C)(C)C)C1=C(C=CC=C1)O)=O | C17H25NO5
solvent | methylene chloride water | C(Cl)Cl.O
product | N-t-butoxycarbonyl-2-(2-hydroxyphenyl)glycine | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=C(C=CC=C1)O | C13H17NO5
